US06683107B2
4-{4-[2-(2-Bromo-benzyl)-4,5-dimethyl-furan-3-carbonyl]-2.6-diisopropyl-phenylsulfonyl}-2-hydroxy-benzoic acid
The title compound was prepared according to the procedure in Example 4 using [2-(2-bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone (0.300 g, 0.639 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (0.197g, 0.831 mmol). Purification on Dynamax C18 (90% CH3CN/H2O) gave 0.20 g (47%) of the tide compound as a yellow solid, mp 90-95° C. 1H NMR (DMSO-d6) δ1.06 (d, 12 H), 1.85 (s, 3 H), 2.19 (s, 3 H), 3.07 (septet, 2 H), 3.91 (s, 2 H), 7.14-7.16 (m, 2 H), 7.29 (dt, 1 H), 7.44 (d, 1 H), 7.47-7.52 (m, 4 H), 8.05 (d, 1 H) (KBr) 3400, 2950, 1690, 1380 and 1190 cm31 1. mass spectrum (−EST) rnz 667/669 (M−H). Anal. Calcd. for C33H33BrO8S: C, 59.19; H, 4.97; N, 0.00. Found: C, 58.82; H, 5.13; N, 0.13.

reactant | [2-(2-bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone | 0.639 mmol, 0.300 g | BrC1=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C(=C2)C(C)C)O)C(C)C)C)C)C=CC=C1 | C26H29BrO3
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 0.831 mmol, 0.197g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-{4-[2-(2-Bromo-benzyl)-4,5-dimethyl-furan-3-carbonyl]-2.6-diisopropyl-phenylsulfonyl}-2-hydroxy-benzoic acid | BrC1=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C(=C2)C(C)C)S(=O)(=O)C2=CC(=C(C(=O)O)C=C2)O)C(C)C)C)C)C=CC=C1 | C33H33BrO7S
